US07223788B2
1-[4-(4-Dimethylaminopiperidin-1-yl)phenyl]-3-(4-phenoxyphenyl)urea
Dimethylpiperidin-4-ylamine was reacted with 4-fluoronitrobenzene, the resulting nitro compound was reduced with hydrogen and finally the aniline ([1-(4-aminophenyl)piperidin-4-yl]dimethylamine) was reacted with CDI and 4-phenoxyaniline by method A, B and C. This resulted in the product with the molecular weight of 430.55 (C26H30N4O2); MS (ESI): 431 (M+H+).

reactant | Dimethylpiperidin-4-ylamine | CN(C1CCNCC1)C | C7H16N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrogen | [H][H] | H2
reactant | aniline | NC1=CC=C(C=C1)N1CCC(CC1)N(C)C | C13H21N3
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
product | 1-[4-(4-Dimethylaminopiperidin-1-yl)phenyl]-3-(4-phenoxyphenyl)urea | CN(C1CCN(CC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C | C26H30N4O2
